US08053438B2
STEP 7: 1H-BENZO[D]IMIDAZOLE-2-YL(4-(3-(TETRAHYDRO-2H-THIOPYRAN-4-YL)PYRAZIN-2-YLOXY)PHENYL)METHANONE
A mixture of 1H-benzo[d]imidazole (0.039 g, 0.334 mmol), triisopropoxymethane (0.529 g, 2.78 mmol), benzenesulfonic acid (2.200 mg, 0.014 mmol) in toluene (5 mL) was heated at reflux for 3 h. The mixture was cooled, neutralized with diisopropylamine (0.1 ml), concentrated to dryness and diluted with 1 ml THF. The above solution was added to a stirred mixture of N-methoxy-N-methyl-4-(3-(tetrahydro-2H-thiopyran-4-yl)pyrazin-2-yloxy)benzamide (0.100 g, 0.278 mmol) in THF (3 mL). The resulting mixture was cooled to 0° C. and LDA (0.167 mL, 0.334 mmol) was added dropwise. The reaction mixture was stirred at RT overnight, quenched with saturated NH4Cl, extracted with EtOAc (3×), dried over MgSO4, concentrated and purified by ISCO (0-5% MeOH/DCM) to give the title compound as a white solid. MS (ESI, pos. ion) m/z: 416.1 (M+1). IC50 (uM) +++++.

reactant | 1H-benzo[d]imidazole | 0.334 mmol, 0.039 g | N1C=NC2=C1C=CC=C2 | C7H6N2
reactant | triisopropoxymethane | 2.78 mmol, 0.529 g | C(C)(C)OC(OC(C)C)OC(C)C | C10H22O3
reactant | benzenesulfonic acid | 0.014 mmol, 2.200 mg | C1(=CC=CC=C1)S(=O)(=O)O | C6H6O3S
reactant | diisopropylamine | 0.1 ml | C(C)(C)NC(C)C | C6H15N
reactant | N-methoxy-N-methyl-4-(3-(tetrahydro-2H-thiopyran-4-yl)pyrazin-2-yloxy)benzamide | 0.278 mmol, 0.100 g | CON(C(C1=CC=C(C=C1)OC1=NC=CN=C1C1CCSCC1)=O)C | C18H21N3O3S
reactant | LDA | 0.334 mmol, 0.167 mL | [Li+].CC(C)[N-]C(C)C
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 1H-BENZO[D]IMIDAZOLE-2-YL(4-(3-(TETRAHYDRO-2H-THIOPYRAN-4-YL)PYRAZIN-2-YLOXY)PHENYL)METHANONE | N1C(=NC2=C1C=CC=C2)C(=O)C2=CC=C(C=C2)OC2=NC=CN=C2C2CCSCC2 | C23H20N4O2S
